US07777047B2
N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a solution of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.662 g) in N,N-dimethylformamide (20 ml) were added 1H-1,2,3-benzotriazol-1-ol (0.414 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.292 g) and 2-(benzylthio)-3,3-dimethoxypropan-1-amine (0.500 g), and the mixture was stirred at room temperature for 15 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-60:40) to give the title compound (0.776 g, yield 70%) as a colorless amorphous solid.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.662 g | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C14H12N2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.414 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.292 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(benzylthio)-3,3-dimethoxypropan-1-amine | 0.500 g | C(C1=CC=CC=C1)SC(CN)C(OC)OC | C12H19NO2S
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-[2-(benzylthio)-3,3-dimethoxypropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.776 g, yield 70% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)C(OC)OC | C26H29N3O5S3
